US07645789B2
A flask was charged with water (10 mL), followed by a rapid addition of NaOH (10 g, 0.25 mol) in three portions over a 5 min period. The mixture was allowed to cool to room temperature. Subsequently, the flask was charged with toluene (6 mL), tetrabutyl-ammonium bromide (50 mg, 0.12 mmol), (6-fluoro-benzo[1,3]dioxol-5-yl)-acetonitrile (600 mg, 3.4 mmol) and 1-bromo-2-chloroethane (1.7 g, 12 mmol). The mixture stirred vigorously at 50° C. overnight. The cooled flask was charged with additional toluene (20 mL). The organic layer was separated and washed with water (30 mL) and brine (30 mL). The organic layer was removed in vacuo to give the crude product, which was purified by column chromatography on silica gel (5-10% ethyl acetate/petroleum ether) to give 1-(6-fluoro-benzo[1,3]dioxol-5-yl)-cyclopropanecarbonitrile (400 mg, 60%). 1H NMR (300 MHz, CDCl3) δ 6.73 (d, J=3.0 Hz, 1H), 6.61 (d, J=9.3 Hz, 1H), 5.98 (s, 2H), 1.67-1.62 (m, 2H), 1.31-1.27 (m, 2H).

reactant | water | 10 mL | O | H2O
reactant | NaOH | 0.25 mol, 10 g | [OH-].[Na+]
reactant | (6-fluoro-benzo[1,3]dioxol-5-yl)-acetonitrile | 3.4 mmol, 600 mg | FC=1C(=CC2=C(OCO2)C1)CC#N | C9H6FNO2
reactant | 1-bromo-2-chloroethane | 12 mmol, 1.7 g | BrCCCl | C2H4BrCl
catalyst | tetrabutyl-ammonium bromide | 0.12 mmol, 50 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(6-fluoro-benzo[1,3]dioxol-5-yl)-cyclopropanecarbonitrile | 400 mg, 60% | FC=1C(=CC2=C(OCO2)C1)C1(CC1)C#N | C11H8FNO2
